US09382188B2
step 1) ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-hydroxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate
Under a nitrogen atmosphere, to a solution of ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate (984 mg) in methanol (8.35 mL) was added pyridinium p-toluenesulfonate (126 mg) at room temperature, and the mixture was stirred at 50° C. for 20 hr. The reaction mixture was cooled, poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (685 mg) as a colorless gummy substance.

reactant | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-((tetrahydro-2H-pyran-2-yl)oxy)phenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 984 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC1OCCCC1)F | C36H44FNO5
reactant | pyridinium p-toluenesulfonate | 126 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | methanol | 8.35 mL | CO | CH4O
product | ethyl 3-cyclopropyl-3-(3-(((6-(2-fluoro-5-hydroxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)phenyl)propanoate | 685 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)O)F | C31H36FNO4
